US06592692B2
To a stirred solution of 15 g (0.1 mole) of 2,2-dinitropropanol and 1.5 g (0.05 mole) of s-trioxane in 13 mL of methylene chloride at 0° C., 15 g (98%) of a concentrated sulfuric acid solution was injected with syringe pump over 2 hours. During the reaction, temperature was controlled not to exceed 5° C. After addition was completed, the reaction was stirred for further 30 minutes. Upon completion of the reaction, the reaction solution was quenched with water. The reaction mixture was extracted with 130 mL of methylene chloride, and then, the extract was successively washed with 5% sodium hydroxide aqueous solution (130 mL×4) and saturated sodium chloride aqueous solution (130 mL×2), dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure. Further evaporation under 60° C., about 10 mmHg for 5 hours gave 12.8 g of BDNPF.

reactant | 2,2-dinitropropanol | 0.1 mole, 15 g | [N+](=O)([O-])C(CO)(C)[N+](=O)[O-] | C3H6N2O5
reactant | s-trioxane | 0.05 mole, 1.5 g | C1OCOCO1 | C3H6O3
reactant | sulfuric acid | 15 g | S(O)(O)(=O)=O | H2O4S
solvent | methylene chloride | 13 mL | C(Cl)Cl | CH2Cl2
product | BDNPF | 12.8 g, Yield: 87.0% | CC(COCOCC(C)([N+](=O)[O-])[N+](=O)[O-])([N+](=O)[O-])[N+](=O)[O-] | C7H12N4O10
